US04199596
48.4 g (0.22 mol) of 3-(3-fluorophenoxy)-6-fluorotoluene were dissolved in 300 ml of anhydrous carbon tetrachloride and heated under reflux with 41 g of N-bromosuccinimide. After 70° C. was reached, 3 g of azo-diisobutyronitrile were added; after about 10-20 minutes the reaction commenced, with evolution of heat, and after the exothermic reaction had subsided the mixture was heated under reflux for a further 4 hours. The reaction batch was then cooled to 10° C., the succinimide was filtered off and the carbon tetrachloride was distilled off in vacuo. The oil which remained was distilled at 142°-150° C./2 mm Hg. 3-(3-Fluorophenoxy)-6-fluorobenzyl bromide was obtained in 51% yield.

reactant | 3-(3-fluorophenoxy)-6-fluorotoluene | 0.22 mol, 48.4 g | FC=1C=C(OC=2C=C(C(=CC2)F)C)C=CC1 | C13H10F2O
reactant | N-bromosuccinimide | 41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azo-diisobutyronitrile | 3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(3-Fluorophenoxy)-6-fluorobenzyl bromide | 51% yield | FC=1C=C(OC=2C=C(CBr)C(=CC2)F)C=CC1 | C13H9BrF2O
